US07553969B1
To a solution of Z-Phe(4-F)—OH (1.09 g, 3.44 mmol), N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (1.04 g, 2.87 mmol) and CMPI (878 mg, 3.44 mmol) in THF (30 ml), TEA (0.96 ml, 6.88 mmol) was added under cooling with ice and stirred at room temperature overnight. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: n-hexane:ethyl acetate=1:3) to give Z-Phe(4-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 (1.73 g, 91%).

reactant | Z-Phe(4-F)—OH | 3.44 mmol, 1.09 g | N([C@@H](CC1=CC=C(C=C1)F)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H16FNO4
reactant | N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 2.87 mmol, 1.04 g | N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C | C20H33N3O3
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Z-Phe(4-F)-N-Me-Val-N-Me-Tyr(3-tBu)-NH2 | 1.73 g, 91% | N([C@@H](CC1=CC=C(C=C1)F)C(=O)N([C@@H](C(C)C)C(=O)N([C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C)C(=O)OCC1=CC=CC=C1 | C37H47FN4O6
